US04587341
A. 5,6,7-Trimethoxynaphthalene-2-carboxaldehyde
Methyl 5,6,7-trimethoxynaphthalene-2-carboxylate (C. L. Chen, F. D. Hostettler, Tetrahedron, 1969, 25, 3223) was reduced to the aldehyde in the following manner. Sodium bis(2-methoxyethoxy)aluminium hydride in toluene (5.6 ml, 20 mmol, 70% solution) was chilled to -20° C. under nitrogen in 20 ml of dry toluene and then 1.74 ml (20 mmol) of morpholine in 5 ml of toluene was added dropwise to it. The reaction was allowed to stir at -5° for 30 minutes, after which it was rechilled to -20° and added slowly to a solution of methyl 5,6,7-trimethoxynaphthalene-2-carboxylate (2.76 g, 10 mmol) in 20 ml of toluene at -20°. The reaction was stirred for 30 minutes at -10°, then rechilled to -20°, basified with 20 ml (40 mmol) of 2N sodium hydroxide, and extracted with three times 25 ml of toluene. The combined toluene layers were washed with 50 ml of 1N hydrochloric acid, then with 50 ml of 0.5M sodium bicarbonate, and finally with 50 ml of water, and dried over magnesium sulfate, filtered and evaporated to give 2.55 g (52% crude yield) of the title compound. This was purified on a silica gel column eluting with hexane:ethyl acetate/12:1 to give 2.15 g (44%) of the product, m.p. 96°-98°. Anal. Calcd. for C14H14O4 : C, 68.28; H, 5.73. Found: C, 68.16; H, 5.78.

reactant | Methyl 5,6,7-trimethoxynaphthalene-2-carboxylate | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C(=O)OC | C15H16O5
reactant | Sodium bis(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | morpholine | 20 mmol, 1.74 ml | N1CCOCC1 | C4H9NO
reactant | methyl 5,6,7-trimethoxynaphthalene-2-carboxylate | 10 mmol, 2.76 g | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C(=O)OC | C15H16O5
reactant | sodium hydroxide | 40 mmol, 2N, 20 ml | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mmol, 5.6 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,7-Trimethoxynaphthalene-2-carboxaldehyde | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C=O | C14H14O4
